US06107274
This compound was prepared by stirring 2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-N-[2-(4-fluoro-phenyl)-ethyl]-acetamide (305 mg, 0.51 mmol) in 10 ml of concentrated sulfuric acid. After 1 hour the solution was poured into 40 g of ice. The ice melted and the white solid was filtered, dried, and the crude product was purified by flash chromatography (1:20 methanol/dichloromethane; Rf =0.25) to give 60 mg (20%) of 4-{(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-[2-4-fluoro-phenyl)-ethylcarbamoyl]-methyl}-benzamide.

reactant | 2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-N-[2-(4-fluoro-phenyl)-ethyl]-acetamide | 0.51 mmol, 305 mg | C(#N)C1=CC=C(C=C1)C(C(=O)NCCC1=CC=C(C=C1)F)N1C(C2N(CC=3C=CC=CC3C2)C(C1CC1CCCCC1)=O)=O | C36H37FN4O3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
